US05597890
Preparation of 5-Bromo-2'-fluoro-2-(trifluoroacetamido)benzophenone (Hereafter "Compound 9")
To a solution of 12 g of 2 amino-5-bromo-2'-fluoro benzophenone (Lancaster) in 407 ml of dry diethylether was added 42.6 g of anhydrous sodium carbonate. The reaction mixture was cooled in an ice bath, and 29 ml of trifluoroacetic anhydride was added dropwise as rapidly as possible while maintaining at the most a gentle reflux. Thereafter, the ice bath was removed, and the reaction mixture was stirred for 30 min. at room temperature. The off-white reaction slurry was separated between 500 ml methylene chloride and 500 ml of water. The aqueous layer was removed and organic layer was washed twice with water and dried over MgSO4. Filtration and evaporation of the solvent gave 15.7 g (98.5%) of product. mp 132° C.; 1H NMR (CDCl3,300 MHz) d: 7.24 (t,1H), 7.35 (t,1H), 7.50-7.55 (m, 1H), 7.60-7.67 (m, 1H), 7.72 (t,1H), 7.77-7.81 (d of d,1H), 8.62 (d, 1H), 12.29 (s,1 NH); Anal. calcd. for C15H8NO2BrF4 : C, 46.18; H, 2.07; N, 3.59. Found: C, 46.33; H, 1.94; N, 3.68.

reactant | amino-5-bromo-2'-fluoro benzophenone | NC1=C(C(=O)C2=C(C=CC=C2)F)C=C(C=C1)Br | C13H9BrFNO
reactant | sodium carbonate | 42.6 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | trifluoroacetic anhydride | 29 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | diethylether | 407 ml | C(C)OCC | C4H10O
product | 5-Bromo-2'-fluoro-2-(trifluoroacetamido)benzophenone | 15.7 g, 98.5% | BrC=1C=CC(=C(C(=O)C2=C(C=CC=C2)F)C1)NC(C(F)(F)F)=O | C15H8BrF4NO2
